US05728709
To a solution of 1.50 g (6.02 mmol) of 2-[2-(2-hydroxyphenyl)vinyl]-1-methylindole, 1.89 g (7.21 mmol) of triphenylphosphine and 0.69 ml (7.22 mmol) of R-(+)-methyl lactate in 15 ml of THF was added 1.14 ml (7.24 mmol) of diethylazodicarboxylate under an ice-cooled condition, followed by stirring at room temperature for 2 hours. Brine was added to the reaction mixture, followed by extraction with methylene chloride. The extract was dried over Na2SO4, and evaporated. CHCl3 -n-hexane was added to the residue and, after filtration, the organic layer was purified by silica gel column chromatography (CHCl3 /n-hexane/AcOEt=10/10/1) to give 1.82 g (90%) of (S)-2-{2[2-(1-methoxycarbonylethoxy)phenyl]vinyl}-1-methylindole.

reactant | 2-[2-(2-hydroxyphenyl)vinyl]-1-methylindole | 6.02 mmol, 1.50 g | OC1=C(C=CC=C1)C=CC=1N(C2=CC=CC=C2C1)C | C17H15NO
reactant | triphenylphosphine | 7.21 mmol, 1.89 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethylazodicarboxylate | 7.24 mmol, 1.14 ml | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | THF | 15 ml | C1CCOC1 | C4H8O
solvent | Brine | [Cl-].[Na+].O
product | (S)-2-{2[2-(1-methoxycarbonylethoxy)phenyl]vinyl}-1-methylindole | 1.82 g, 90% | COC(=O)[C@H](C)OC1=C(C=CC=C1)C=CC=1N(C2=CC=CC=C2C1)C | C21H21NO3
